US09382228B2
A solution of triethylamine trihydrofluoride (0.479 mL, 2.94 mmol) in DCE (6 mL) at RT was treated with XtalFluor-M (1.071 g, 4.41 mmol) followed by ethyl 4-oxocyclohexanecarboxylate (0.500 g, 2.94 mmol) and the mixture heated to reflux for 2.5 h. The mixture was cooled to RT, treated with satd. NaHCO3 and stirred overnight. The mixture was diluted with DCM, the layers separated, the aqueous layer extracted with additional DCM (1×) and the combined organics were dried over MgSO4 and filtered through a small pad of silica gel, rinsing well with DCM. The filtrate was concentrated to dryness and purified via silica gel chromatography (DCM/Hex) to afford ethyl 4,4-difluorocyclohexanecarboxylate (390 mg, 69%) as a colorless oil. 1H NMR (400 MHz, DMSO-d6): δ 4.05 (q, J=7.1 Hz, 2H), 2.49 (m, 1H), 2.02-1.77 (m, 6H), 1.65-1.50 (m, 2H), 1.16 (t, J=7.1 Hz, 3H).

reactant | triethylamine trihydrofluoride | 2.94 mmol, 0.479 mL | F.F.F.C(C)N(CC)CC
reactant | ethyl 4-oxocyclohexanecarboxylate | 2.94 mmol, 0.500 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | ethyl 4,4-difluorocyclohexanecarboxylate | 390 mg, 69% | FC1(CCC(CC1)C(=O)OCC)F | C9H14F2O2
